US04230628
A solution of 8.8 g. of ethyl 4-(15-carbomethoxypentadecylamino)benzoate, 4.5 g. of potassium hydroxide, and 10 ml. of water in 90 ml. of ethanol is stirred at 75° for 10 hours, cooled, diluted with water, brought to pH 4 with dilute hydrochloric acid, and filtered. The solid is dried and crystallized from acetic acid to yield 4-(15-carboxypentadecylamino)benzoic acid as a white crystalline solid.

reactant | ethyl 4-(15-carbomethoxypentadecylamino)benzoate | C(=O)(OC)CCCCCCCCCCCCCCCNC1=CC=C(C(=O)OCC)C=C1 | C26H43NO4
reactant | potassium hydroxide | [OH-].[K+]
reactant | ethanol | C(C)O | C2H6O
reactant | hydrochloric acid | Cl | ClH
solvent | water | O | H2O
product | 4-(15-carboxypentadecylamino)benzoic acid | C(=O)(O)CCCCCCCCCCCCCCCNC1=CC=C(C(=O)O)C=C1 | C23H37NO4
